US05340701
38.1: p-Octylthiobenzonitrile
103.2 g (0.75 mol) of p-chlorobenzonitrile, 140 g of potassium carbonate and 143.2 ml (0.825 mol) of octanethiol in dimethylacetamide are stirred at 100° C. for about 16 hours in a sulfonation flask under a protective-gas atmosphere. The white suspension obtained is cooled, poured into ice water and extracted a number of times with dichloromethane. The organic phases are combined, washed with water, dried over MgSO4, filtered and evaporated, giving 193.1 g of crude product, which is distilled at 92° C./0.1 mm Hg.

reactant | p-chlorobenzonitrile | 0.75 mol, 103.2 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | potassium carbonate | 140 g | C([O-])([O-])=O.[K+].[K+]
reactant | octanethiol | 0.825 mol, 143.2 ml | C(CCCCCCC)S | C8H18S
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | p-Octylthiobenzonitrile | 193.1 g | C(CCCCCCC)SC1=CC=C(C#N)C=C1 | C15H21NS
